US08748613B2
Preparation of 2-(2-oxopyrrolidin-1-yl)-2-phenylacetic acid (I78)
2-(4-Chlorobutanamido)-2-phenylacetic acid (650 mg, 2.54 mmol) was dissolved in dry THF (8.5 ml) and the solution was cooled to 0° C. with an ice-bath stirring under nitrogen atmosphere. Potassium tert-butoxide (599 mg, 5.34 mmol) was added in three portions and a white suspension was obtained. The mixture was stirred at the same temperature for 15 minutes. 1N HCl was added dropwise till pH 2-3 and than the mixture was diluted with water (10 ml) and extracted three times with EtOAc (15 ml×3). The organic phase was dried (Na2SO4) and evaporated to obtain the title compound (352 mg, 63.2% yield) as a pale yellow spongy sticky solid.

reactant | 2-(4-Chlorobutanamido)-2-phenylacetic acid | 2.54 mmol, 650 mg | ClCCCC(=O)NC(C(=O)O)C1=CC=CC=C1 | C12H14ClNO3
reactant | Potassium tert-butoxide | 5.34 mmol, 599 mg | CC(C)([O-])C.[K+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 8.5 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 2-(2-oxopyrrolidin-1-yl)-2-phenylacetic acid | 352 mg, 63.2% yield | O=C1N(CCC1)C(C(=O)O)C1=CC=CC=C1 | C12H13NO3
